US07022725B2
A mixture of 2-acetyl-5-chlorothiophene (10.0 g), sodium hydride (60%, oil, 2.49 g) and diethyl carbonate (80 ml) was stirred at 80° C. for 30 min. Water was added to the reaction mixture, and the mixture was neutralized with dilute hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-(5-chloro-2-thienyl)-3-oxopropionate was obtained as an oil from a fraction eluted with ethyl acetate-hexane (1:5, volume ratio). A mixture of this oil and N,N-dimethylformamide dimethylacetal (11.1 g) was refluxed for 1 hr. The reaction mixture was concentrated, and the residue was dissolved in ethanol (80 ml). To the obtained solution was added hydroxylamine hydrochloride (8.65 g), and the mixture was refluxed for 2 hr. The reaction mixture was concentrated, water was added to the residue and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and the crystals obtained from a fraction eluted with ethyl acetate-hexane (1:5, volume ratio) were recrystallized from ethyl acetate-hexane to give ethyl 5-(5-chloro-2-thienyl)isoxazole-4-carboxylate (9.34 g, yield 58%) as a colorless prism. melting point: 74–75° C.

reactant | 2-acetyl-5-chlorothiophene | 10.0 g | C(C)(=O)C=1SC(=CC1)Cl | C6H5ClOS
reactant | sodium hydride | 2.49 g | [H-].[Na+]
reactant | diethyl carbonate | 80 ml | C(OCC)(OCC)=O | C5H10O3
reactant | hydrochloric acid | Cl | ClH
solvent | Water | O | H2O
product | ethyl 3-(5-chloro-2-thienyl)-3-oxopropionate | ClC1=CC=C(S1)C(CC(=O)OCC)=O | C9H9ClO3S
